US04684642
(a) 2-Amino-2-(1,2,3-thiadiazol-4-yl)acetic acid hydrochloride
A solution of 2-methoxyimino-2-(1,2,3-thiadiazol-4-yl)acetic acid (mixture of syn- and anti-isomers) (500 mg) [prepared by the method described in Belgian Pat. No. 859384 (1978)] in a mixture of methanol (10 cm3) and water (2.3 cm3) was treated with 1N hydrochloric acid (2.7 cm3) and hydrogenated under 50 psi of hydrogen with 5% rhodium-on-charcoal (500 mg) for one hour. A further portion of catalyst (500 mg) was added and hydrogenation continued for one hour. After filtration the filtrate was evaporated to dryness in vacuo and the residue triturated with ether to give the title compound as an off-white solid, (490 mg).

reactant | 2-methoxyimino-2-(1,2,3-thiadiazol-4-yl)acetic acid | 500 mg | CON=C(C(=O)O)C=1N=NSC1 | C5H5N3O3S
reactant | hydrochloric acid | 1N, 2.7 cm3 | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | methanol | 10 cm3 | CO | CH4O
solvent | water | 2.3 cm3 | O | H2O
product | 2-Amino-2-(1,2,3-thiadiazol-4-yl)acetic acid hydrochloride | 490 mg | Cl.NC(C(=O)O)C=1N=NSC1 | InChI=1S/C4H5N3O2S.ClH/c5-3(4(8)9)2-1-10-7-6-2;/h1,3H,5H2,(H,8,9);1H
